US04873236
5,11-Dihydro-11-[[[2-[3-[(hexahydro-1H-azepin-1-yl)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 46 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 2[3-[(hexahydro-1H-azepin-1-yl)methyl]-piperidin-1-yl]ethanamine in a yield of 69% of theory. Colourless crystals, m.p. 135°-137° C. (acetonitrile).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 2[3-[(hexahydro-1H-azepin-1-yl)methyl]-piperidin-1-yl]ethanamine | N1(CCCCCC1)CC1CN(CCC1)CCN | C14H29N3
solvent | acetonitrile | C(C)#N | C2H3N
product | 5,11-Dihydro-11-[[[2-[3-[(hexahydro-1H-azepin-1-yl)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 69% | N1(CCCCCC1)CC1CN(CCC1)CCNC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C27H36N6O2
